US05770614
Synthesis of (E)-2-[2-(6-methylamino-5-trifluoromethylpyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide (Compound No. 17)
A 40% methylamine--methanol solution (10 ml) was added to (E)-2-[2-(6-chloro-5-trifluoromethylpyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide (402 mg), and the mixture was stirred at 100° C. for 17 hours. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried, and then the solvent was evaporated. The resulting oil was purified by column chromatography on silica gel to give the title compound (379 mg). mp. 66°-67° C.

reactant | methylamine | CN | CH5N
reactant | methanol | 10 ml | CO | CH4O
reactant | (E)-2-[2-(6-chloro-5-trifluoromethylpyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide | 402 mg | ClC1=C(C=CC(=N1)OCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC)C(F)(F)F | C17H15ClF3N3O3
solvent | Water | O | H2O
product | (E)-2-[2-(6-methylamino-5-trifluoromethylpyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide | 379 mg | CNC1=C(C=CC(=N1)OCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC)C(F)(F)F | C18H19F3N4O3
